US05760243
2-Methyl-5-phenylisoxazolidine (38.1 g, 234 mmol) dissolved in tetramethylene sulfone (38.1 g) is mixed with 5% Pd/C (1.9 g) in a glass pressure reactor. The reactor is warmed to 50° C. and the pressure is maintained at 40 psig with H2 for 24 hours. Ethanol (38.1 g) is added and heating is continued for 48 hours. After cooling, the mixture is filtered and the EtOH is removed to give a solution of N-methyl-3-phenyl-3-hydroxypropylamine in tetramethylene sulfone.

reactant | 2-Methyl-5-phenylisoxazolidine | 234 mmol, 38.1 g | CN1OC(CC1)C1=CC=CC=C1 | C10H13NO
reactant | Ethanol | 38.1 g | C(C)O | C2H6O
solvent | tetramethylene sulfone | 38.1 g | C1CCCS1(=O)=O | C4H8O2S
catalyst | Pd/C | 1.9 g | [Pd] | Pd
product | N-methyl-3-phenyl-3-hydroxypropylamine | CNCCC(O)C1=CC=CC=C1 | C10H15NO
